US08008307B2
Step c: N-(4-amino-6-chloropyrimidin-5-yl)-N-methylbenzamide
To a solution of N-(4,6-dichloropyrimidin-5-yl)-N-methylbenzamide (0.455 g, 0.00161 mol) in 1-butanol (5 mL, 0.05 mol) was added ammonium hydroxide (0.50 mL, 0.013 mol) and the mixture was refluxed for 24 h. To the reaction was added ammonium hydroxide (1.0 mL, 0.026 mol) and the mixture was refluxed for 24 h, cooled, extracted with a mixture of ethyl acetate:isopropanol, washed with saturated aqueous sodium bicarbonate, brine, dried (Na2SO4), filtered, concentrated and triturated in diethyl ether to obtain 284 mg (67.1%).

reactant | N-(4,6-dichloropyrimidin-5-yl)-N-methylbenzamide | 0.00161 mol, 0.455 g | ClC1=NC=NC(=C1N(C(C1=CC=CC=C1)=O)C)Cl | C12H9Cl2N3O
reactant | 1-butanol | 0.05 mol, 5 mL | C(CCC)O | C4H10O
reactant | ammonium hydroxide | 0.013 mol, 0.50 mL | [OH-].[NH4+]
reactant | ammonium hydroxide | 0.026 mol, 1.0 mL | [OH-].[NH4+]
product | N-(4-amino-6-chloropyrimidin-5-yl)-N-methylbenzamide | NC1=NC=NC(=C1N(C(C1=CC=CC=C1)=O)C)Cl | C12H11ClN4O
